US08957089B2
98.4 1-[1-(6-chloropyridin-2-yl)cyclobutyl]-7-methoxy-3,4-dihydroisoquinoline
N-[2-(4-methoxyphenyl)ethyl]-1-(pyridin-2-yl)cyclobutanecarboxamide (679 mg, 1.969 mmol) was reacted with phosphorusoxychloride (2.7 ml, 29.5 mmol) in the microwave at 140° C. for 60 min. The reaction mixture was poured on ice water. After 10 min 10% aqueous sodium hydroxide solution was added until pH 8 was reached. The aqueous layer was extracted with dichloromethane. The combined extracts were dried (MgSO4), concentrated in vacuo and the crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 560 mg (1.71 mmol, 87%).

reactant | N-[2-(4-methoxyphenyl)ethyl]-1-(pyridin-2-yl)cyclobutanecarboxamide | 1.969 mmol, 679 mg | COC1=CC=C(C=C1)CCNC(=O)C1(CCC1)C1=NC=CC=C1 | C19H22N2O2
reactant | phosphorusoxychloride | 29.5 mmol, 2.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-[1-(6-chloropyridin-2-yl)cyclobutyl]-7-methoxy-3,4-dihydroisoquinoline | ClC1=CC=CC(=N1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OC | C19H19ClN2O
